US09255223B2
2.1 Preparation of 6-bromohexyl [4-(6-bromohexyloxycarbonylmethyl)-4′-propylbicyclohexyl-4-yl]acetate
10.0 g (30.8 mmol) of (4-carboxymethyl-4′-propylbicyclohexyl-4-yl)acetic acid are heated on a water separator for 6 h together with 15.0 g (80.4 mmol) of 6-bromo-1-hexanol and 0.50 g (2.90 mmol) of paratoluenesulfonic acid monohydrate in 150 ml of toluene. After cooling, the reaction mixture is subjected to absorptive filtration (SiO2, toluene), and the filtrate is concentrated to dryness. The crude product obtained in this way is used directly for the next reaction.

reactant | (4-carboxymethyl-4′-propylbicyclohexyl-4-yl)acetic acid | 30.8 mmol, 10.0 g | C(=O)(O)CC1(CCC(CC1)C1CCC(CC1)CCC)CC(=O)O | C19H32O4
reactant | water | O | H2O
reactant | 6-bromo-1-hexanol | 80.4 mmol, 15.0 g | BrCCCCCCO | C6H13BrO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-bromohexyl [4-(6-bromohexyloxycarbonylmethyl)-4′-propylbicyclohexyl-4-yl]acetate | BrCCCCCCOC(=O)CC1(CCC(CC1)C1CCC(CC1)CCC)CC(=O)OCCCCCCBr | C31H54Br2O4
